US07238716B2
A mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (11.13 g), 2-hydroxy-1-naphthaldehyde (5.96 g), anhydrous potassium carbonate (5.03 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 2 days. The reaction mixture was poured into water, and the precipitated solid was collected by filtration, and dried with air to give crystals (13.83 g, 89%) of 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-1-naphthaldehyde. Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 141-142° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 11.13 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 2-hydroxy-1-naphthaldehyde | 5.96 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | potassium carbonate | 5.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-1-naphthaldehyde | 13.83 g, 89% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=C(C3=CC=CC=C3C=C2)C=O)C=C1 | C29H23NO4
